US06313122B1
Preparation of N1-(3-Chlorobenzoyl)-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine hydrochloride hemihydrate
Using the procedure described in Example 48, Part C, N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine (0.61 mmol) and 3-chlorobenzoyl chloride (1.2 mmol) yielded 211 mg (69%) of the title compound.

reactant | N1-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine | 0.61 mmol | N1=CC=C(C=C1)N1CCC(CC1)COC(=O)NNC=1C(=CC=CC1)N | C18H23N5O2
reactant | 3-chlorobenzoyl chloride | 1.2 mmol | ClC=1C=C(C(=O)Cl)C=CC1 | C7H4Cl2O
product | N1-(3-Chlorobenzoyl)-N2-[[1-(4-pyridyl)piperidin-4-yl]methoxycarbonylamino]-1,2-benzenediamine hydrochloride hemihydrate | 211 mg, 69% | O.Cl.ClC=1C=C(C(=O)NC=2C(=CC=CC2)NNC(=O)OCC2CCN(CC2)C2=CC=NC=C2)C=CC1.ClC=1C=C(C(=O)NC=2C(=CC=CC2)NNC(=O)OCC2CCN(CC2)C2=CC=NC=C2)C=CC1.Cl | InChI=1S/2C25H26ClN5O3.2ClH.H2O/c2*26-20-5-3-4-19(16-20)24(32)28-22-6-1-2-7-23(22)29-30-25(33)34-17-18-10-14-31(15-11-18)21-8-12-27-13-9-21;;;/h2*1-9,12-13,16,18,29H,10-11,14-15,17H2,(H,28,32)(H,30,33);2*1H;1H2
